US05571921
1-[2-(2-Aminophenyl)amino-2-oxoethyl]-4-(2-oxo-1-benzimidazolinyl)piperidin
4 g (10.12 mmol) of 1-[2-(2-nitrophenyl)amino-2-oxoethyl]-4-(2-oxo-1-benzimidazolinyl)piperidine are dissolved in 40 ml of DMF. After addition of 400 mg of 10% Pd/C (Aldrich), the mixture is hydrogenated at 3 bar until reaction is complete (TLC). The catalyst is filtered off and all solvent is stripped off in a high vacuum. The crude product is coevaporated several times with methanol. The crystals obtained are stirred in methanol, filtered off with suction and dried at 30° C. in a high vacuum.

reactant | 1-[2-(2-nitrophenyl)amino-2-oxoethyl]-4-(2-oxo-1-benzimidazolinyl)piperidine | 10.12 mmol, 4 g | [N+](=O)([O-])C1=C(C=CC=C1)NC(CN1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)=O | C20H21N5O4
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | 1-[2-(2-Aminophenyl)amino-2-oxoethyl]-4-(2-oxo-1-benzimidazolinyl)piperidin | NC1=C(C=CC=C1)NC(CN1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)=O | C20H23N5O2
